US04379922
Zinc powder (500 mg.) and copper sulfate 5-hydrate (50 mg.) were added to a solution of 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 500 mg.) in tetrahydrofuran (6 ml.), water (2 ml.) and acetic acid (1 ml.), and stirred at room temperature for 2 hours. The resultant mixture was filtered and washed with tetrahydrofuran (5 ml.). The filtrate and the washings were combined and treated in a similar manner to that of Example 10-(3) to give a mixture (160 mg.) of 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-methylenecepham-4-carboxylic acid (syn isomer) and 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-methyl-3-cephem-4-carboxylic acid (syn isomer).

reactant | 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 500 mg | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)C1(C)OCCO1 | C18H21N5O7S3
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 500 mg | [Zn] | Zn
product | 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-methylenecepham-4-carboxylic acid | 160 mg | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)O)C1=O)C1(C)OCCO1 | C15H19N3O7S
